US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-chlorophenyl chloroformate were reacted, followed by treatment with dimethylamine to give trans-Methyl-{4-[5-(dimethylamino)-pentyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester, MS: 381 (MH+, 1Cl).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | dimethylamine | CNC | C2H7N
product | trans-Methyl-{4-[5-(dimethylamino)-pentyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)CCCCCN(C)C)C)=O | C21H33ClN2O2
